US04349684
8-[3-(4-Methylphenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid methyl ester
The product is produced as described in example 1 from 2.25 g of NaH (80% suspension in mineral oil), 18.7 g of 1-(4-methylphenyl)-5-phenyl-4-imidazolin-2-one, 150 cc. of DMF, 17.8 g of 8-bromocaprylic acid methyl ester and 2.25 g of NaJ.

reactant | NaH | 2.25 g | [H-].[Na+]
reactant | 1-(4-methylphenyl)-5-phenyl-4-imidazolin-2-one | 18.7 g | CC1=CC=C(C=C1)N1C(NC=C1C1=CC=CC=C1)=O | C16H14N2O
reactant | 8-bromocaprylic acid methyl ester | 17.8 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[3-(4-Methylphenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C)=O)=O | C25H30N2O3
